US04943574
To a stirred and heated (50° C.) mixture of 2.81 parts of 6-(1H-imidazol-1-ylmethyl)-1H-benzotriazol-1-ol and 22.5 parts of N,N-dimethylformamide were added 0.69 parts of a sodium hydride dispersion. The reaction mixture was stirred until hydrogen evolution had ceased. 1.28 Parts of 1-chloro-2-methoxyethane were added at room temperature and stirring was continued for a while. 22 Parts of dimethyl sulfoxide and 0.04 parts of 2-(2-methoxyethoxy)-N,N-bis[2-(2-methoxyethoxy)ethyl]ethanamine were added. The reaction mixture was stirred overnight at 50° C. and then poured into water. The product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from a mixture of ethyl acetate and 2,2'-oxybispropane (1:3 by volume). The product was filtered off, washed with a mixture of ethyl acetate and 2,2'-oxybispropane (1:3 by volume) and 2,2'-oxybispropane and dried in vacuo at 50° C., yielding 1.66 parts (46.7%) of 6-(1H-imidazol-1-ylmethyl)-1-(2-methoxyethoxy)-1H-benzotriazole; mp. 77.0° C. (compound 220).

reactant | 6-(1H-imidazol-1-ylmethyl)-1H-benzotriazol-1-ol | N1(C=NC=C1)CC=1C=CC2=C(N(N=N2)O)C1 | C10H9N5O
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 1-chloro-2-methoxyethane | ClCCOC | C3H7ClO
reactant | 2-(2-methoxyethoxy)-N,N-bis[2-(2-methoxyethoxy)ethyl]ethanamine | COCCOCCN(CCOCCOC)CCOCCOC | C15H33NO6
solvent | water | O | H2O
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 6-(1H-imidazol-1-ylmethyl)-1-(2-methoxyethoxy)-1H-benzotriazole | 46.7% | N1(C=NC=C1)CC=1C=CC2=C(N(N=N2)OCCOC)C1 | C13H15N5O2
